US08076332B2
N-(2-t-Butoxycarbonylaminophenyl)-4-[1-[3-(morpholin-4-yl)propyl]-3-(thiazol-2-yl)ureidomethyl]benzamide (Reference Compound No. 17-1)
Under ice cooling, 2-aminothiazole (65 mg, 0.64 mmol) was added to a solution of N,N′-carbonyldiimidazole (110 mg, 0.68 mmol) in THF (3.0 mL), and then the reaction mixture was stirred for 6 hours. N-(2-t-butoxycarbonylaminophenyl)-4-[3-(morpholin-4-yl) propylaminomethyl]benzamide (Reference Compound No. 4-11, 110 mg, 0.23 mmol) was added thereto, and then the reaction mixture was stirred at 60° C. for 16 hours. Water (100 mL) was added thereto, the whole was extracted with ethyl acetate (100 mL), and then the organic layer was washed with brine (100 mL). The organic layer was dried over anhydrous sodium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform-methanol) to give 90 mg of the title reference compound as a colorless amorphous product. (Yield 65%)

reactant | 2-aminothiazole | 0.64 mmol, 65 mg | NC=1SC=CN1 | C3H4N2S
reactant | N-(2-t-butoxycarbonylaminophenyl)-4-[3-(morpholin-4-yl) propylaminomethyl]benzamide | 0.23 mmol, 110 mg | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)CNCCCN1CCOCC1)=O | C26H36N4O4
reactant | Water | 100 mL | O | H2O
reactant | THF | 3.0 mL | C1CCOC1 | C4H8O
product | N-(2-t-Butoxycarbonylaminophenyl)-4-[1-[3-(morpholin-4-yl)propyl]-3-(thiazol-2-yl)ureidomethyl]benzamide | Yield 65% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)C(CCCN1CCOCC1)NC(=O)NC=1SC=CN1)=O | C30H38N6O5S
